US07547697B2
(1S,8R)-5-(2,2-Dimethyl-propyl)-1,11,11-trimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene
light-yellow solid. MS (ESI): 258.9 (MH+). Prepared from (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione, (4,4-dimethyl-2-oxo-pentyl)-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | (1S,4R)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione | C[C@]12C(C([C@H](CC1)C2(C)C)=O)=O | C10H14O2
reactant | (4,4-dimethyl-2-oxo-pentyl)-phosphonic acid dimethyl ester | COP(OC)(=O)CC(CC(C)(C)C)=O | C9H19O4P
reactant | hydrazine monohydrate | O.NN
product | (1S,8R)-5-(2,2-Dimethyl-propyl)-1,11,11-trimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene | CC(CC1=NN=C2[C@]3(CC[C@@H](C2=C1)C3(C)C)C)(C)C | C17H26N2
